US07919519B2
Iodine (5.87 g, 23.1 mmol) was added to a solution of 6-benzyl-2-chloropyridin-3-ol (2.54 g, 11.6 mmol) in water (45 mL) containing potassium carbonate (3.20 g, 23.1 mmol). The mixture was allowed to stir for 3 h at room temperature, treated with sodium thiosulfate, and acidified to pH 2 using 12M aqueous HCl. The mixture was extracted with EtOAc. The organic phase was dried over MgSO4 and evaporated. Purification by flash chromatography using EtOAc/hexanes gave 6-benzyl-2-chloro-4-iodopyridin-3-ol. 1H NMR (300 MHz, DMSO-d6) δ ppm 10.36 (br. s, 1H), 7.68 (s, 1H), 7.15-7.35 (m, 5H), 3.93 (s, 2H). MS (ESI) m/z: Calculated; 345.0; Observed: 345.9 (M++1).

reactant | Iodine | 23.1 mmol, 5.87 g | II | I2
reactant | 6-benzyl-2-chloropyridin-3-ol | 11.6 mmol, 2.54 g | C(C1=CC=CC=C1)C1=CC=C(C(=N1)Cl)O | C12H10ClNO
reactant | potassium carbonate | 23.1 mmol, 3.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 12M | Cl | ClH
solvent | water | 45 mL | O | H2O
product | 6-benzyl-2-chloro-4-iodopyridin-3-ol | C(C1=CC=CC=C1)C1=CC(=C(C(=N1)Cl)O)I | C12H9ClINO
